US08541432B2
148-E. (±)-4-(1H-Indol-5-yloxy)-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester
To a solution of 4-chloro-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester (1 g, 2.93 mmol) in CH3CN (30 mL), 5-hydroxy-indole (0.779 g, 5.85 mmol) and DBU (0.88 mL, 5.85 mmol) are added. After heating at 60° C. for 5 h the reaction is evaporated and the product isolated using FCC eluting with heptane:EtOAc 1:1. MS (ESI) m/z 439.1 (M+1).

reactant | 4-chloro-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester | 2.93 mmol, 1 g | C(C)OC(=O)C1CC2=C(N=CN=C2Cl)CN1C(=O)OC(C)(C)C | C15H20ClN3O4
reactant | 5-hydroxy-indole | 5.85 mmol, 0.779 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | DBU | 5.85 mmol, 0.88 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | (±)-4-(1H-Indol-5-yloxy)-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-6,7-dicarboxylic acid 7-tert-butyl ester 6-ethyl ester | C(C)OC(=O)C1CC2=C(N=CN=C2OC=2C=C3C=CNC3=CC2)CN1C(=O)OC(C)(C)C | C23H26N4O5
